US07294486B2
Purification of 5′-fluoro-5′-deoxyadenosine
For purification of the organofluorine product, a cell-free extract (15 ml) was prepared as described before and incubated with ATP (5 mM), MgCl2 (15 mM), L-methionine (0.2 mM), potassium fluoride (10 mM) for one day at 26° C. After that time the biotransformation mixture was heated at 90° C. for 10 minutes and denatured protein was removed by centrifugation. The supernatant was lyophilised the resultant powder was dissolved in H2O (2 ml) and remaining solids were removed by centrifugation. The clear supernatant (100 μL) was applied to a Hypersil 5 μm C-18 column (250×10 mm, Phenomenex) and eluted isocratically (potassium phosphate buffer (50 mM)/acetonitrile, 95.5) at a flow rate of 5 ml/min. Detection was by UV at 260 nm.

reactant | ATP | 5 mM | P(O)(=O)(OP(=O)(O)OP(=O)(O)O)OC[C@@H]1[C@H]([C@H]([C@@H](O1)N1C=NC=2C(N)=NC=NC12)O)O | C10H16N5O13P3
reactant | MgCl2 | 15 mM | [Mg+2].[Cl-].[Cl-]
reactant | L-methionine | 0.2 mM | N[C@@H](CCSC)C(=O)O | C5H11NO2S
reactant | potassium fluoride | 10 mM | [F-].[K+]
product | 5′-fluoro-5′-deoxyadenosine | FC[C@@H]1[C@H]([C@H]([C@@H](O1)N1C=NC=2C(N)=NC=NC12)O)O | C10H12FN5O3
